US07390818B2
A) N′-(4-Chlorophenyl)acetohydrazide
12.5 g of 4-chlorophenylhydrazine hydrochloride are dissolved in 100 ml of water and then triethylamine is added until the salt has been neutralized. Extraction is carried out with AcOEt and then the extract is evaporated to dryness. The base is dissolved in 100 ml of ether, the solution is cooled to 0° C. and then 15 ml of acetic anhydride are added dropwise. The mixture is stirred at 0° C. for 15 minutes. The white precipitate formed is filtered off and is then washed with ether to produce 12.8 g of the expected compound in the form of a white powder.

reactant | 4-chlorophenylhydrazine hydrochloride | 12.5 g | Cl.ClC1=CC=C(C=C1)NN
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
product | N′-(4-Chlorophenyl)acetohydrazide | 12.8 g | ClC1=CC=C(C=C1)NNC(C)=O | C8H9ClN2O
